US05420275
3-Amino-6-chloro-4,5-diethoxycarbonyl-2-(4-aminophenyl)pyridine
In 20ml of ethanol were suspended 0.91 g of 2-chloro-3,4-diethoxycarbonyl-5-nitro-6-(4-nitrophenyl)pyridine and 1.11 g of reduced iron, and the suspension was heated to 60° C. After 4.7 ml of conc. hydrochloric acid was added, the mixture was heated under reflux for 20 minutes. After the reaction mixture was concentrated, extraction with ethyl acetate was conducted. The extract was washed with an aqueous solution of sodium hydrogencarbonate and an aqueous solution of sodium chloride consecutively, and dried over magnesium sulfate. After concentration, the residue was subjected to silica gel column chromatography (eluent:chloroform/methanol 40:1), to give 0.58 g of the title compound as yellow prisms.

reactant | 2-chloro-3,4-diethoxycarbonyl-5-nitro-6-(4-nitrophenyl)pyridine | 0.91 g | ClC1=NC(=C(C(=C1C(=O)OCC)C(=O)OCC)[N+](=O)[O-])C1=CC=C(C=C1)[N+](=O)[O-] | C17H14ClN3O8
reactant | hydrochloric acid | 4.7 ml | Cl | ClH
solvent | ethanol | 20ml | C(C)O | C2H6O
product | 3-Amino-6-chloro-4,5-diethoxycarbonyl-2-(4-aminophenyl)pyridine | 0.58 g | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)Cl)C1=CC=C(C=C1)N | C17H18ClN3O4
